US04579860
4-Chloro-5-chloromethyl-2-dimethylcarbamoyl-4-isoxazolin-3-one
254 mg of 4-chloro-2-chlorocarbonyl-5-chloromethyl-4-isoxazolin-3-one were dissolved in 5 ml of benzene, and then a solution of 48 mg of dimethylamine and 107 mg of triethylamine in 2 ml of benzene were added, with stirring, at room temperature. The mixture was stirred for a further 10 minutes, after which it was washed, in turn, with 2 ml of 0.1N sulphuric acid and water (twice, 5 ml each time). The organic phase was dried over anhydrous sodium sulphate and the solvent was distilled off. The residue was purified by column chromatography through silica gel eluted with a 20:1 by volume mixture of benzene and acetone. The solvent was distilled from the eluate and the residue was recrystallized from diisopropyl ether, to give 159 mg (yield 62.8%) of the title compound in the form of crystals, melting at 107°-108° C.

reactant | 4-chloro-2-chlorocarbonyl-5-chloromethyl-4-isoxazolin-3-one | 254 mg | ClC=1C(N(OC1CCl)C(=O)Cl)=O | C5H2Cl3NO3
reactant | dimethylamine | 48 mg | CNC | C2H7N
reactant | triethylamine | 107 mg | C(C)N(CC)CC | C6H15N
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
product | 4-Chloro-5-chloromethyl-2-dimethylcarbamoyl-4-isoxazolin-3-one | 159 mg, yield 62.8% | ClC=1C(N(OC1CCl)C(N(C)C)=O)=O | C7H8Cl2N2O3
